US03974157
Preparation of (-)-1-(2-Dimethylamino-1-methylethyl)-2-phenylcyclohexyl acetate.
(-)-1-(2-Dimethylamino-1-methylethyl)-2-phenycyclohexanol (8 gm) in 65 ml chloroform is cooled to 0° and 2.7 ml acetyl chloride is added at ≤5°. After warming to room temperature, the solution is extracted with dilute aqueous sodium hydroxide, washed with water and dried over magnesium sulfate. The dried chloroform solution is then cooled to 0° and treated with another 3.0 ml acetyl chloride at ≤5° and again allowed to warm to room temperature, extracted with dilute sodium hydroxide, washed with water and dried over magnesium sulfate. Removal of solvent leaves 9.3 gm of an oil which crystallizes spontaneously. This is recrystallized from 30 ml n-hexane (at -50°) yielding 5.7 gm product melting at 63°-66°. The optical rotation is as follows: ##EQU8##

reactant | (-)-1-(2-Dimethylamino-1-methylethyl)-2-phenycyclohexanol | 8 gm | CN(CC(C)C1(C(CCCC1)C1=CC=CC=C1)O)C | C17H27NO
reactant | acetyl chloride | 2.7 ml | C(C)(=O)Cl | C2H3ClO
solvent | chloroform | 65 ml | C(Cl)(Cl)Cl | CHCl3
product | (-)-1-(2-Dimethylamino-1-methylethyl)-2-phenylcyclohexyl acetate | 9.3 gm | C(C)(=O)OC1(C(CCCC1)C1=CC=CC=C1)C(CN(C)C)C | C19H29NO2
